US05114461
A solution of methyl 3-(ethoxycarbonylacetamido)-3-methylbutyrate (45 g) and sodium metal (4.22 g) in anhydrous methanol (450 ml) was heated at a reflux for 3 hours. The cooled mixture was evaporated under reduced pressure and the residue dissolved in water (200 ml). The aqueous solution was washed with ether (3×100 ml), acidified with 2N hydrochloric acid and the acidic mixture extracted with dichloromethane (3×100 ml). The combined extracts were washed with water (2×100 ml), dried over magnesium sulphate and evaporated under reduced pressure to give methyl 6,6-dimethylpiperidine-2,4-dione-3-carboxylate (26.3 g), mp 170°-172° C., as a cream crystalline solid.

reactant | methyl 3-(ethoxycarbonylacetamido)-3-methylbutyrate | 45 g | C(C)OC(=O)CC(=O)NC(CC(=O)OC)(C)C | C11H19NO5
reactant | sodium | 4.22 g | [Na] | Na
solvent | methanol | 450 ml | CO | CH4O
product | methyl 6,6-dimethylpiperidine-2,4-dione-3-carboxylate | 26.3 g | CC1(CC(C(C(N1)=O)C(=O)OC)=O)C | C9H13NO4
